US07186749B2
Ethyl 2-benzoyl-4-(6-methoxy-2-naphthyl)-4-oxobutanoate (5.00 g, 12.8 mmol), prepared in the previous step, was dissolved in 300 mL of tetrahydrofuran. After complete dissolution of the ester, 1N NaOH solution (28.2 mL, 28.2 mmol) was added to the THF solution. The mixture was heated to gentle reflux for 24 hours, then allowed to cool back to ambient temperature. The mixture was acidified with 1N hydrochloric acid (105 mL) and allowed to stir for 15 minutes. The THF was then removed under reduced pressure and the residue was partitioned between methylene chloride and 1N HCl. The layers were separated, and the aqueous layer was extracted two times with methylene chloride. The combined extracts were dried (MgSO4), filtered and the solvent removed under reduced pressure. Purification on silica gel (300 g, 200–300 mesh) using methylene chloride as the eluent gave 1-(6-methoxy-2-naphthyl)-4-phenylbutane-1,4-dione as a white solid (1.64 g, 40%), mp 163.5–164.5° C. Elemental Analysis for C21H18O3 Calc'd: C, 79.23; H, 5.70; N, 0.00. Found: C, 79.25; H, 5.70; N, 0.00.

reactant | Ethyl 2-benzoyl-4-(6-methoxy-2-naphthyl)-4-oxobutanoate | 12.8 mmol, 5.00 g | C(C1=CC=CC=C1)(=O)C(C(=O)OCC)CC(=O)C1=CC2=CC=C(C=C2C=C1)OC | C24H22O5
reactant | NaOH | 28.2 mmol, 1N, 28.2 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 105 mL | Cl | ClH
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
product | 1-(6-methoxy-2-naphthyl)-4-phenylbutane-1,4-dione | 1.64 g, 40% | COC=1C=C2C=CC(=CC2=CC1)C(CCC(=O)C1=CC=CC=C1)=O | C21H18O3
